US07851473B2
N-(3,4-Dimethylisoxazol-5-yl)-4-[4-(2-fluorophenyl)-1,3-thiazol-2-yl]piperidine-1-carboxamide
A mixture of 2,2,2-trichloroethyl (3,4-dimethylisoxazol-5-yl)carbamate (109 mg, 0.377 mmol), 4-[4-(2-fluorophenyl)-1,3-thiazol-2-yl]piperidine (90 mg, 0.343 mmol) and diisopropylethylamine (0.120 ml, 0.686 mmol) in dimethylsulfoxide (1.5 ml) was stirred at 70° C. for 6 hours. Water was poured into the reaction solution, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate) and recrystallized from a mixed solvent of hexane and tetrahydrofuran to give the desired product (42.0 mg, 30.6%) as a solid.

reactant | 2,2,2-trichloroethyl (3,4-dimethylisoxazol-5-yl)carbamate | 0.377 mmol, 109 mg | CC1=NOC(=C1C)NC(OCC(Cl)(Cl)Cl)=O | C8H9Cl3N2O3
reactant | 4-[4-(2-fluorophenyl)-1,3-thiazol-2-yl]piperidine | 0.343 mmol, 90 mg | FC1=C(C=CC=C1)C=1N=C(SC1)C1CCNCC1 | C14H15FN2S
reactant | diisopropylethylamine | 0.686 mmol, 0.120 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | dimethylsulfoxide | 1.5 ml | CS(=O)C | C2H6OS
product | N-(3,4-Dimethylisoxazol-5-yl)-4-[4-(2-fluorophenyl)-1,3-thiazol-2-yl]piperidine-1-carboxamide | 42.0 mg, 30.6% | CC1=NOC(=C1C)NC(=O)N1CCC(CC1)C=1SC=C(N1)C1=C(C=CC=C1)F | C20H21FN4O2S
